US04966975
Step (6) Preparation of 5-Chloro-2-naphthalenylacetonitrile
A mixture of 5-chloro-2-chloromethylnaphthalene (1.37 g crude product, 5.12 mmol), NaCN (0.275 g, 5.61 mmol), CH3CN (10 mL), and H2O (1 mL) was heated under reflux for 5.5 hours, cooled, and stirred at room temperature overnight. The mixture was partitioned between ether and H2O. The aqueous phase was extracted with ether, and the combined ether layers were washed with brine, dried (MgSO4), and concentrated in vacuo. Purification by flash chromatography (eluant EtOAc/hexane (10:90)) gave a pale yellow solid (600 mg, 58%), m.p. 95°-98° C.

reactant | 5-chloro-2-chloromethylnaphthalene | 5.12 mmol, 1.37 g | ClC1=C2C=CC(=CC2=CC=C1)CCl | C11H8Cl2
reactant | NaCN | 5.61 mmol, 0.275 g | [C-]#N.[Na+]
reactant | CH3CN | 10 mL | CC#N | C2H3N
solvent | H2O | 1 mL | O | H2O
product | 5-Chloro-2-naphthalenylacetonitrile | 600 mg, 58% | ClC1=C2C=CC=C(C2=CC=C1)CC#N | C12H8ClN
